US07642220B2
24. Preparation of 6-Amino-2-(4-chloro-2-fluoro-3-methoxyphenyl)-5-methylsulfanyl-pyrimidine-4-carboxylic acid (Compound 21)
6-amino-2-(4-chloro-2-fluoro-3-methoxyphenyl)-5-methylsulfanyl-pyrimidine-4-carboxylic acid methyl ester (100 mg, 0.28 mmol) was dissolved in 2 mL methanol and 0.5 mL of 2N sodium hydroxide (1 mmol) was added. The reaction mixture was stirred at room temperature for 4 h and then acidified with a slight excess of 2N HCl. The resulting solution was concentrated and partitioned between ethyl acetate and water. The organic phase was dried and concentrated to yield the title compound (68 mg, 70% yield): mp 153° C. (dec.): 1H NMR (CDCl3): δ 7.63 (m, 1H), 7.2 (m, 1H), 6.4 (br s, 2H), 3.98 (s, 3H), 2.42 (s, 3H).

reactant | 6-amino-2-(4-chloro-2-fluoro-3-methoxyphenyl)-5-methylsulfanyl-pyrimidine-4-carboxylic acid methyl ester | 0.28 mmol, 100 mg | COC(=O)C1=NC(=NC(=C1SC)N)C1=C(C(=C(C=C1)Cl)OC)F | C14H13ClFN3O3S
reactant | sodium hydroxide | 1 mmol, 2N, 0.5 mL | [OH-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | methanol | 2 mL | CO | CH4O
product | 6-Amino-2-(4-chloro-2-fluoro-3-methoxyphenyl)-5-methylsulfanyl-pyrimidine-4-carboxylic acid | 68 mg, 70% yield | NC1=C(C(=NC(=N1)C1=C(C(=C(C=C1)Cl)OC)F)C(=O)O)SC | C13H11ClFN3O3S
